US07465815B2
Cyclopentyl(4-isopropylphenyl)methanone
To a solution of cumene (16.4 g, 137 mmol) and aluminum chloride (21.9 g, 164 mmol) in dichloromethane (200 mL) was added cyclopentanecarbonyl chloride (20 g, 151 mmol) at −50° C. (the inside temperature), and the mixture was stirred for two hours until the temperature reached −10° C. (the inside temperature).

reactant | cumene | 137 mmol, 16.4 g | C1(=CC=CC=C1)C(C)C | C9H12
reactant | aluminum chloride | 164 mmol, 21.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclopentanecarbonyl chloride | 151 mmol, 20 g | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Cyclopentyl(4-isopropylphenyl)methanone | C1(CCCC1)C(=O)C1=CC=C(C=C1)C(C)C | C15H20O
